US08349824B2
A mixture of 5-(2-(ethyl(methyl)amino)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid (144 mg, 419 μmol), morpholine (365 mg, 4.19 mmol), propylphosphonic anhydride (50% in ethyl acetate, 618 μl, 1.05 mmol) and N,N-diisopropylethylamine (214 μL, 1.26 mmol) in tetrahydrofuran (7.00 ml) was refluxed for 2.5 days (weekend). The solvent was evaporated, the residue was triturated with sodium hydrogencarbonate solution. The precipitated solid was filtered off, washed with water and dried affording 2-methyl-4-(morpholine-4-carbonyl)-2H-pyrazole-3-carboxylic acid [2-(ethyl-methyl-amino)-[1,2,4]triazolo[1,5-a]pyridin-7-yl]-amide (141 mg, 81.5%) as a white solid. mp: 167-169° C., MS: m/z=413.4 (M+H+)

reactant | 5-(2-(ethyl(methyl)amino)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid | 419 μmol, 144 mg | C(C)N(C1=NN2C(C=C(C=C2)NC(=O)C2=C(C=NN2C)C(=O)O)=N1)C | C15H17N7O3
reactant | morpholine | 4.19 mmol, 365 mg | N1CCOCC1 | C4H9NO
reactant | propylphosphonic anhydride | 1.05 mmol, 618 μl | CCCP(=O)=O | C3H7O2P
reactant | N,N-diisopropylethylamine | 1.26 mmol, 214 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 7.00 ml | O1CCCC1 | C4H8O
product | 2-methyl-4-(morpholine-4-carbonyl)-2H-pyrazole-3-carboxylic acid [2-(ethyl-methyl-amino)-[1,2,4]triazolo[1,5-a]pyridin-7-yl]-amide | 141 mg, 81.5% | C(C)N(C1=NN2C(C=C(C=C2)NC(=O)C=2N(N=CC2C(=O)N2CCOCC2)C)=N1)C | C19H24N8O3
